US07199265B2
Methyl[3,5-dichloro-4-(4-aminophenoxy)phenyl] acetate (33 mg, 0.10 mmol), was coupled with isobutyryl chloride (11 mg), using the method described in Example 1(h). After purification on column (silica gel, ethyl acetate/petrolium ether), 35 mg (95%) of methyl-[3,5-dichloro-4-(4-isobutyramidophenoxy)phenyl] acetate was obtained, which was hydrolysed using the method described in Example 1(i). This gave 30 mg (89%) of 3,5-dichloro-4-(4-isobutyramidophenoxy)phenylacetic acid.

reactant | Methyl[3,5-dichloro-4-(4-aminophenoxy)phenyl] acetate | 0.10 mmol, 33 mg | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC=C(C=C1)N)Cl)C | C15H13Cl2NO3
reactant | isobutyryl chloride | 11 mg | C(C(C)C)(=O)Cl | C4H7ClO
product | methyl-[3,5-dichloro-4-(4-isobutyramidophenoxy)phenyl] acetate | 35 mg, 95% | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC=C(C=C1)NC(C(C)C)=O)Cl)C | C19H19Cl2NO4
